US06432963B1
A 12 ml portion of 4 M hydrochloric acid-dioxane solution was added to a mixture of 580 mg of tert-butyl ester of 3-[2-(2-aminoethylamino)-5-carbamoylpyrimidin-4-ylamino]benzoic acid with 6 ml of methanol and 6 ml of water and stirred at 80° C. for 1 hour. The organic solvent was evaporated from the reaction mixture under a reduced pressure, and the thus formed precipitate was collected by filtration. After adding methanol and water, the mixture was heated. The insoluble matter was removed by filtration and then the mother liquid was concentrated under a reduced pressure. By recrystallizing the resulting residue from a mixed solvent of methanol and water, 59 mg of 3-[2-(2-aminoethylamino)-5-carbamoylpyrimidin-4-ylamino]benzoic acid dihydrochloride was obtained (colorless crystals).

reactant | hydrochloric acid dioxane | 4 M | Cl.O1CCOCC1
reactant | 3-[2-(2-aminoethylamino)-5-carbamoylpyrimidin-4-ylamino]benzoic acid | NCCNC1=NC=C(C(=N1)NC=1C=C(C(=O)O)C=CC1)C(N)=O | C14H16N6O3
reactant | methanol | 6 ml | CO | CH4O
solvent | water | 6 ml | O | H2O
product | 3-[2-(2-aminoethylamino)-5-carbamoylpyrimidin-4-ylamino]benzoic acid dihydrochloride | 59 mg | Cl.Cl.NCCNC1=NC=C(C(=N1)NC=1C=C(C(=O)O)C=CC1)C(N)=O | InChI=1S/C14H16N6O3.2ClH/c15-4-5-17-14-18-7-10(11(16)21)12(20-14)19-9-3-1-2-8(6-9)13(22)23;;/h1-3,6-7H,4-5,15H2,(H2,16,21)(H,22,23)(H2,17,18,19,20);2*1H
